US08791142B2
Step 2) methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-cyanopyridin-2-yl)pyrrolidine-2-carboxylate
To a solution of methyl (2S,4R)-1-(3-chloro-5-cyanopyridin-2-yl)-4-hydroxypyrrolidine-2-carboxylate (0.270 g; 0.96 mmol) and imidazole (0.098 g; 1.44 mmol) in DMF (3 mL) was added tert-butyl dimethylsilylchloride (0.159 g; 1.05 mmol). The reaction mixture was stirred at ambient temperature for 18 hours. Further imidazole (0.049 g; 0.72 mmol) and tert-butyldimethylsilyl chloride (0.080 g; 0.53 mmol) was added and the reaction stirred at ambient temperature for 3 hours. The reaction mixture was diluted with EtOAc and washed sequentially with water and brine. The organic phase was poured through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography on silica, eluting with iso-hexane/EtOAc (6:1) to afford the title product (0.311 g, 82%). 1H NMR (CDCl3, 400 MHz) δ 8.16 (1H, d, J=2 Hz), 7.57 (1H, d, J=2 Hz), 4.79 (1H, t, J=8 Hz), 4.46-4.44 (1H, m), 4.17-4.13 (1H, dd, J=11.2, 4.8 Hz), 3.77-3.74 (1H, m), 3.63 (3H, s), 2.15 (1H, m), 1.96 (1H, m), 0.79 (9H, s), 0.14-0.02 (6H, m).

reactant | methyl (2S,4R)-1-(3-chloro-5-cyanopyridin-2-yl)-4-hydroxypyrrolidine-2-carboxylate | 0.96 mmol, 0.270 g | ClC=1C(=NC=C(C1)C#N)N1[C@@H](C[C@H](C1)O)C(=O)OC | C12H12ClN3O3
reactant | imidazole | 1.44 mmol, 0.098 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl dimethylsilylchloride | 1.05 mmol, 0.159 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.72 mmol, 0.049 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.53 mmol, 0.080 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-cyanopyridin-2-yl)pyrrolidine-2-carboxylate | 0.311 g, 82% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C1=NC=C(C=C1Cl)C#N)C(=O)OC | C18H26ClN3O3Si
